US07115598B2
a) 1-(4-Chloro-2-nitrophenyl)ethanol
A solution of methyl lithium (46 mL, 1.4 M in Et2O), was slowly added under argon, at −78° C., to a stirred solution of 4-chloro-2-nitrobenzaldehyde (10 g, 53.9 mmol) in dry tetrahydrofuran (150 mL). After 20 min. at −78° C., the reaction mixture was quenched with water (400 mL), extracted twice with ethyl acetate (500 mL), dried (Na2SO4), and concentrated to dryness under reduced pressure. Chromatography on silica (EtOAc/CH2Cl2/EtOH, 1:6:1) yielded the title compound (7.2 g, 66%) as yellow oil: 1H NMR (400 MHz, CDCl3) δ 1.56 (d, J=6.4 Hz, 3H, ArH), 2.40 (br s, 1H, OH), 5.42 (q, J=6.4 Hz, 1H, CH), 7.63 (dd, J=8.4 Hz, J=2.0 Hz, 1H, ArH), 7.82 (d, J=8.4 Hz, 1H, ArH), 7.92 (d, J=2.0 Hz, 1H, ArH).

reactant | methyl lithium | 1.4 M, 46 mL | C[Li]
reactant | 4-chloro-2-nitrobenzaldehyde | 53.9 mmol, 10 g | ClC1=CC(=C(C=O)C=C1)[N+](=O)[O-] | C7H4ClNO3
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
product | 1-(4-Chloro-2-nitrophenyl)ethanol | 7.2 g, 66% | ClC1=CC(=C(C=C1)C(C)O)[N+](=O)[O-] | C8H8ClNO3
